US05808062
4-Hydroxy-6-phenyl-3-(2-phenylethyl)-2H-pyran-2-one:
The title compound was prepared by Method F using Raney-Nickel (Grace 3100), ethanol (20 mL), 4-hydroxy-6-phenyl-3-[2-phenyl-1-(phenylthio)ethyl]-2H-pyran-2-one (0.425 g, 1.06 mmol). m.p. dec. >255° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.65 (dd, 2 H), 2.71 (dd, 2 H), 6.68 (s, 1 H), 7.23 (m, 3 H), 7.52 (m, 3 H), 7.76 (m, 2 H), 11.85 (bs, 1 H).

reactant | 4-hydroxy-6-phenyl-3-[2-phenyl-1-(phenylthio)ethyl]-2H-pyran-2-one | 1.06 mmol, 0.425 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)C(CC1=CC=CC=C1)SC1=CC=CC=C1 | C25H20O3S
catalyst | Raney-Nickel | [Ni] | Ni
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-Hydroxy-6-phenyl-3-(2-phenylethyl)-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)CCC1=CC=CC=C1 | C19H16O3
